US03989694
7-Amino-3-(5-carboxymethyl-1,2,4-triazol-3-ylthiomethyl)-3-cephem-4-carboxylic acid
10% Aqueous sodium hydroxide (8 ml.) was added to a suspension of 5.4 g. (20 mmol.) of 7-aminocephalosporanic acid and 5.5 g. (27 mmol.) of 3-carboxymethyl-1,2,4-triazole-5-thiol disodium salt, prepared by addition of a sodium hydroxide solution to a solution of 3-carboxymethyl-1,2,4-triazole-5-thiol in aqueous ethanol.

reactant | sodium hydroxide | 8 ml | [OH-].[Na+]
reactant | 7-aminocephalosporanic acid | 20 mmol | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | 3-carboxymethyl-1,2,4-triazole-5-thiol disodium salt | 27 mmol | [Na].[Na].C(=O)(O)CC1=NNC(=N1)S
reactant | 3-carboxymethyl-1,2,4-triazole-5-thiol | C(=O)(O)CC1=NNC(=N1)S | C4H5N3O2S
solvent | ethanol | C(C)O | C2H6O
product | 7-Amino-3-(5-carboxymethyl-1,2,4-triazol-3-ylthiomethyl)-3-cephem-4-carboxylic acid | NC1[C@@H]2N(C(=C(CS2)CSC2=NNC(=N2)CC(=O)O)C(=O)O)C1=O | C12H13N5O5S2
